US04518713
1-{2-{N-{3-[(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}-ethyl}-4-(2-fluorophenoxy)piperidine dihydrochloride
To a stirred suspension of 7.38 g (0.503 mol) of lithium aluminum hydride (50% in oil; washed 3 times with hexanes) in 250 ml of dry THF at 0° was added dropwise a solution of 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(2-fluorophenoxy)piperidine (liberated from 28.6 g, 50.6 mmol, of the oxalate) in 250 ml of THF. The mixture was allowed to warm to room temperature and subsequently heated at reflux for 24 hours under nitrogen. The mixture was allowed to cool to room temperature and subsequently cooled in an ice bath. To the mixture were added dropwise, slowly, 4 ml water, 4 ml 15% sodium hydroxide and 12 ml water. The suspension was filtered and the residue washed with THF. Evaporation of the solvent provided an oil which was shaken with saturated sodium carbonate, extracted twice with ether, washed with saturated sodium chloride and dried over potassium carbonate. Filtration followed by evaporation of the solvent provided an oil. The yield of the dihydrochloride was 20.26 g (44.0 mmol, 87%).

reactant | lithium aluminum hydride | 0.503 mol, 7.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(2-fluorophenoxy)piperidine | FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=C(C=CC=C1)F | C26H32F2N2O4
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | water | 12 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 1-{2-{N-{3-[(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}-ethyl}-4-(2-fluorophenoxy)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=C(C=CC=C1)F | InChI=1S/C26H34F2N2O3.2ClH/c1-29(14-4-13-26(31-19-20-32-26)21-7-9-22(27)10-8-21)17-18-30-15-11-23(12-16-30)33-25-6-3-2-5-24(25)28;;/h2-3,5-10,23H,4,11-20H2,1H3;2*1H
